US03954764
25 g. of 1-[3-chloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl]-piperazine are heated together with 20 g. of pulverized potassium carbonate, 0.4 g. of potassium iodide and 25.6 g. of N-(β-chloro-ethyl)oxazolidinone under reflux conditions over a period of 25 hours. The reaction mixture is poured onto water and equilibrated with benzene. The organic phase is washed with aqueous saturated sodium bicarbonate solution, dried over sodium sulfate and evaporated under reduced pressure. One obtains 3-{2-[4-(3-chloro-8-fluoro-10,11-dihydrodibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone whic is treated with maleic acid to yield the corresponding maleate which after recrystallization from ethanol and ether melts at 143.5°-146°C.

reactant | 1-[3-chloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl]-piperazine | ClC=1C=CC2=C(SC3=C(C(C2)N2CCNCC2)C=C(C=C3)F)C1 | C18H18ClFN2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | N-(β-chloro-ethyl)oxazolidinone | ClCCN1C(OCC1)=O | C5H8ClNO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-{2-[4-(3-chloro-8-fluoro-10,11-dihydrodibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone | ClC=1C=CC2=C(SC3=C(C(C2)N2CCN(CC2)CCN2C(OCC2)=O)C=C(C=C3)F)C1 | C23H25ClFN3O2S
